US05019578
(R)-α-[[(Cyclobutyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol
A solution of 0.75 g (4.62 mmol) of (R)-2-(tetrazolo [1,5-a]pyrid 6-yl)oxirane and 1.838 ml (22.8 mmol) of cyclobutyl amine in 1.8 ml of absolute ethanol was heated at 100° C. in a sealed reaction tube for 2 hours. The reaction mixture was concentrated to dryness under reduced pressure, wt. 0.997 g. Tlc, mass spectrum and 1H NMR spectra are consistent with good purity and chemical structure.

reactant | (R)-2-(tetrazolo [1,5-a]pyrid 6-yl)oxirane | 4.62 mmol, 0.75 g | N=1N=NN2C1C=CC(=C2)[C@H]2OC2 | C7H6N4O
reactant | cyclobutyl amine | 22.8 mmol, 1.838 ml | C1(CCC1)N | C4H9N
solvent | ethanol | 1.8 ml | C(C)O | C2H6O
product | (R)-α-[[(Cyclobutyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol | C1(CCC1)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C11H15N5O
